US06855710B2
(Z)-3-[1-(4-Dibutylaminomethyl-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone
Prepared analogously to Example 159 from (Z)-3-[1-(4-aminomethyl-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone-hydrochloride, butyraldehyde and sodium cyanoborohydride in methanol.

reactant | (Z)-3-[1-(4-aminomethyl-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone-hydrochloride | Cl.NCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O
reactant | butyraldehyde | C(CCC)=O | C4H8O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | (Z)-3-[1-(4-Dibutylaminomethyl-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone | C(CCC)N(CCCC)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C30H34N4O3
